US07790720B2
A mixture of 4-(3-chloropropoxy)benzamide ax54 (1.9 g, 8.9 mmol, 1 eq), 1,3-dichloro-propan-2-one (1.13 g, 8.9 mmol, 1 eq) in propionitrile (45 ml) is stirred at reflux for 48 h. The solvent is then removed under vacuum and filtered over silicagel with dichloromethane. The dichloromethane is evaporated under vacuum to give 4-(chloromethyl)-2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole ax57 (2.1 g) as a white solid.

reactant | 4-(3-chloropropoxy)benzamide | ClCCCOC1=CC=C(C(=O)N)C=C1 | C10H12ClNO2
reactant | 1,3-dichloro-propan-2-one | 8.9 mmol, 1.13 g, 1 eq | ClCC(CCl)=O | C3H4Cl2O
solvent | propionitrile | 45 ml | C(CC)#N | C3H5N
product | 4-(chloromethyl)-2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole | 2.1 g, Yield: 83% | ClCC=1N=C(OC1)C1=CC=C(C=C1)OCCCCl | C13H13Cl2NO2
